US04963590
4'-Hydroxy-3'-methoxy-5'-nitroacetophenone
To a solution containing 40 ml of nitric acid (d=1.41) and 40 ml of water was gradually added while cooling (below 7° C.) and stirring 25.0 g of 4'-hydroxy-3'-methoxyacetophenone. After stirring for 0.5 h at 0° C. the product was filtered, washed first with diluted nitric acid (1:1) and then with water. Yield 24.0 g (75%). The 1H-NMR-spectrum of the product was in accordance with the structure alleged.

reactant | nitric acid | 40 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4'-hydroxy-3'-methoxyacetophenone | 25.0 g | OC1=C(C=C(C=C1)C(C)=O)OC | C9H10O3
solvent | water | 40 ml | O | H2O
product | 4'-Hydroxy-3'-methoxy-5'-nitroacetophenone | OC1=C(C=C(C=C1[N+](=O)[O-])C(C)=O)OC | C9H9NO5
